US07375222B2
A 14 mg portion of 6-chloro-N-isopropyl-N′-phenyl-1,3,5-triazine-2,4-diamine was dissolved in 800 μl of N-methyl-2-pyrrolidone, and 200 μl of 0.5 mM 2-fluoroaniline N,N-dimethylformamide solution and 50 μl of 4 M hydrochloric acid/dioxane were added thereto and stirred at 80° C. for 7 hours. After cooling down the reaction solution to 60° C., 50 mg (4.27 mmol/g) of PS-trisamine and 50 mg (1.53 mmol/g) of PS-benzaldehyde both manufactured by Algonote were added to the reaction solution and further stirred at 60° C. for 16 hours. The reaction solution was cooled down to room temperature and then mixed with saturated sodium bicarbonate aqueous solution and chloroform and stirred. After filtration of the solution, the organic layer was dried using anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure to obtain 13 mg of N-(2-fluorophenyl)-N′-isopropyl-N″-phenyl-1,3,5-triazine-2,4,6-triamine as a brown resinous substance.

reactant | 6-chloro-N-isopropyl-N′-phenyl-1,3,5-triazine-2,4-diamine | ClC1=NC(=NC(=N1)NC(C)C)NC1=CC=CC=C1 | C12H14ClN5
reactant | 2-fluoroaniline N,N-dimethylformamide | 0.5 mM, 200 μl | CN(C=O)C.FC1=C(N)C=CC=C1
reactant | hydrochloric acid dioxane | 4 M, 50 μl | Cl.O1CCOCC1
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methyl-2-pyrrolidone | 800 μl | CN1C(CCC1)=O | C5H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2-fluorophenyl)-N′-isopropyl-N″-phenyl-1,3,5-triazine-2,4,6-triamine | 13 mg | FC1=C(C=CC=C1)NC1=NC(=NC(=N1)NC(C)C)NC1=CC=CC=C1 | C18H19FN6
